US07816344B2
6-Nitro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol
3-Nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol (20.0 g, 104 mmol) was added in small portions with stirring over 2 h to fuming HNO3 (200 mL) at −45° C. (bath temp). The cold reaction mixture was then poured into crushed ice and allowed to warm to rt. The aqueous phase was extracted with EtOAc. The EtOAc phase was concentrated in vacuo and the residue was poured into crushed ice. The precipitate was filtered and washed with H2O. The solid was dissolved in EtOAc, dried (Na2SO4), and concentrated in vacuo to yield the title compound: yield (14.3 g, 58%).

reactant | 3-Nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | 104 mmol, 20.0 g | [N+](=O)([O-])CC1C2=C(B(O1)O)C=CC=C2 | C8H8BNO4
reactant | HNO3 | 200 mL | [N+](=O)(O)[O-] | HNO3
product | 6-Nitro-3-nitromethyl-3H-benzo[c][1,2]oxaborol-1-ol | [N+](=O)([O-])C=1C=CC2=C(B(OC2C[N+](=O)[O-])O)C1 | C8H7BN2O6
